2193-08-16 06:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2193-8-15**] 11:30 AM
   Azithromycin - [**2193-8-15**] 12:00 PM
   Vancomycin - [**2193-8-15**] 09:48 PM
   Infusions:
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-8-16**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.2
C (99
   HR: 88 (88 - 113) bpm
   BP: 105/58(73) {93/53(68) - 131/80(98)} mmHg
   RR: 20 (17 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 121 kg (admission): 121 kg
   Height: 74 Inch
             Total In:
                                                                  2,276 mL
                                                                    400 mL
   PO:
             TF:
                                                                     72 mL
                                                                    169 mL
   IVF:
                                                                  2,203 mL
                                                                    232 mL
   Blood products:
   Total out:
                                                                  3,735 mL
                                                                    450 mL
   Urine:
                                                                  1,585 mL
                                                                    450 mL
   NG:
                                                                  2,150 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,459 mL
                                                                    -50 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: No Spon Resp
   PIP: 31 cmH2O
   Plateau: 21 cmH2O
   Compliance: 66.7 cmH2O/mL
   SpO2: 96%
   ABG: 7.44/72/80.[**Numeric Identifier 248**]/42/19
   Ve: 12.2 L/min
   PaO2 / FiO2: 133
   Physical Examination
   Gen: Obese caucasian male intubated, sedated, moves to voice
   HEENT: blood noted around bilateral nares and around mouth; not
   currently oozing.
   NECK: Supple, No LAD, No JVD
   CV: RRR. NL S1, S2. No murmurs, rubs or [**Last Name (un) 1792**]
   LUNGS: BS heard throughout lung fields. no wheezes
   ABD: normo-active BS, soft, NT, ND.
   EXT: 1+ edema in the feet bilaterally, DP pulses not palpable.
   NEURO: sedated
   Labs / Radiology
   280 K/uL
   16.0 g/dL
   221 mg/dL
   0.8 mg/dL
   42 mEq/L
   3.9 mEq/L
   25 mg/dL
   94 mEq/L
   145 mEq/L
   50.3 %
   11.3 K/uL
        [image002.jpg]
                             [**2193-8-15**]  01:51 AM
                             [**2193-8-15**]  03:14 AM
                             [**2193-8-15**]  03:19 AM
                             [**2193-8-15**]  05:54 AM
                             [**2193-8-15**]  10:43 AM
                             [**2193-8-15**]  04:38 PM
                             [**2193-8-15**]  04:41 PM
                             [**2193-8-15**]  06:20 PM
                             [**2193-8-16**]  01:52 AM
                             [**2193-8-16**]  02:03 AM
   WBC
   11.6
   8.7
   11.3
   Hct
   51.4
   49.6
   50.3
   Plt
   [**Telephone/Fax (3) 9556**]
   Cr
   0.6
   0.7
   0.8
   TCO2
   38
   39
   36
   42
   49
   45
   50
   Glucose
   [**Telephone/Fax (3) 9557**]
   Other labs: PT / PTT / INR:13.7/25.0/1.2, Lactic Acid:0.9 mmol/L,
   Ca++:10.0 mg/dL, Mg++:2.4 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 ACIDOSIS, RESPIRATORY
 PNEUMONIA, OTHER
   49 year old male with COPD (FEV1 1.2), CAD, HTN, DMII, who presents
   with dyspnea transferred to the unit for hypercarbic and hypoxic
   respiratory failure s/p intubation.
   # respiratory failure: combined hypercarbic and hypoxic respiratory
   failure. Etiology unclear. Chronically elevated Hct suggests some level
   of chronic hypoxia, likely d/t combination of COPD and OSA. No obvious
   infection on CXR to suggest profound pna. possibly COPD exacerbation,
   though no overt wheezing noted.  Could also be in the setting of volume
   overload, but doesn't appear to have gross volume overload on exam
   - levofloxacin 750 mg x 5 day course
   - solumedrol 125 mg IV Q8H for now
   - albuterol/atrovent nebs, Q2-4H prn
   - decrease FiO2 to 60%, increase rate to 20, monitor for AutoPeep
   - propofol for sedation
   - repeat CXR in AM
   - stop heparin gtt; no evidence of PE and also PE less likely to cause
   this constellation of symptoms
   # Diabetes: well controlled according to most recent HbA1C. On
   metformin as outpt.
   - insulin SS
   # Hypertension: Continue home regimen of lisinopril and metoprolol.
   # CAD: s/p IMI in past by report and prior stenting. this doens't
   appear to be primary cardiac cause
   - cont asa
   - cont pravastatin
   - cont beta blocker with holding parameters
   # Hypertension: stable
   - cont metoprolol, ACE-i
   # FEN: NPO for now; if extubated soon can restart diet, otherwise
   nutrition consult for TFs in 48 hrs
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2193-8-15**] 08:23 PM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2193-8-15**] 12:44 AM
   Arterial Line - [**2193-8-15**] 01:39 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2193-08-17 05:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANS ESOPHAGEAL ECHO - At [**2193-8-16**] 01:15 PM
   - desat'ed with thick secretions - went up to FiO2 of 100% and then
   started to wean down
   - TTE - no PFO or shunt
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2193-8-16**] 10:59 AM
   Azithromycin - [**2193-8-16**] 12:00 PM
   Vancomycin - [**2193-8-16**] 09:38 PM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2193-8-16**] 09:06 AM
   Heparin Sodium (Prophylaxis) - [**2193-8-17**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-8-17**] 05:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.4
C (99.3
   HR: 79 (62 - 98) bpm
   BP: 108/60(75) {98/56(70) - 128/73(90)} mmHg
   RR: 19 (17 - 20) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 115.9 kg (admission): 121 kg
   Height: 74 Inch
             Total In:
                                                                  2,493 mL
                                                                    445 mL
   PO:
             TF:
                                                                    767 mL
                                                                    225 mL
   IVF:
                                                                  1,606 mL
                                                                    219 mL
   Blood products:
   Total out:
                                                                  1,660 mL
                                                                    312 mL
   Urine:
                                                                  1,660 mL
                                                                    312 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    833 mL
                                                                    133 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 29 cmH2O
   Plateau: 19 cmH2O
   Compliance: 80 cmH2O/mL
   SpO2: 96%
   ABG: 7.48/62/94.[**Numeric Identifier 128**]/42/18
   Ve: 12.6 L/min
   PaO2 / FiO2: 157
   Physical Examination
   Gen
 sedated, on ventilator, answers questions by nodding
   CV
 faint heart sounds; but, no murmurs, rubs, or gallops appreciated
   Resp
 clear to auscultation anteriorly
   Abdomen
 soft, non-tender, non-distended; bowel sounds present
   Extremities: no edema noted
   Labs / Radiology
   283 K/uL
   15.4 g/dL
   216 mg/dL
   0.8 mg/dL
   42 mEq/L
   3.6 mEq/L
   28 mg/dL
   96 mEq/L
   145 mEq/L
   49.3 %
   12.1 K/uL
        [image002.jpg]
                             [**2193-8-15**]  04:41 PM
                             [**2193-8-15**]  06:20 PM
                             [**2193-8-16**]  01:52 AM
                             [**2193-8-16**]  02:03 AM
                             [**2193-8-16**]  01:44 PM
                             [**2193-8-16**]  04:49 PM
                             [**2193-8-16**]  06:57 PM
                             [**2193-8-16**]  09:11 PM
                             [**2193-8-17**]  02:39 AM
                             [**2193-8-17**]  02:51 AM
   WBC
   11.3
   12.1
   Hct
   50.3
   49.3
   Plt
   280
   283
   Cr
   0.8
   0.8
   0.8
   TCO2
   49
   45
   50
   46
   49
   41
   47
   Glucose
   221
   250
   216
   Other labs: PT / PTT / INR:13.7/25.0/1.2, Lactic Acid:0.9 mmol/L,
   Ca++:9.6 mg/dL, Mg++:2.5 mg/dL, PO4:4.2 mg/dL
   Sputum growing GPC in pairs and clusters ; cx reported as sparse growth
   of oropharyngeal flora
   Assessment and Plan
 ACIDOSIS, RESPIRATORY
 PNEUMONIA, OTHER
   49 year old male with COPD (FEV1 1.2), CAD, HTN, DMII, who presents
   with dyspnea transferred to the unit for hypercarbic and hypoxic
   respiratory failure s/p intubation.
   # Respiratory Failure
 combined hypercarbic and hypoxic respiratory
   failure
   - will stop vancomycin and continue cetriaxone and azithromycin
   - switched IV solumedrol to prednisone 60 mg PO daily
 will complete a
   4 day course of steroids
   - continue albuterol and atrovent
   - decreased pt to 50% FiO2 yesterday but then went back up 2/2 to
   desaturation
 will try to wean pt to CPAP today
   - will continue to follow CXR
s serially
   - leukocytosis is likely secondary to pt being on steroids
   - bubble study was negative for shunt
   # Diabetes
   - insulin SS
   # Hypertension: Continue home regimen of metoprolol
 lisinopril held
   at this time
   # CAD
   - continue aspirin, statin, and beta blocker
   # FEN: on TF
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2193-8-17**] 03:50 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2193-8-15**] 12:44 AM
   Arterial Line - [**2193-8-15**] 01:39 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   Critical Care;
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Mr [**Known lastname 5243**] has advanced COPD with tracheobronchomalacia and bronchiolar
   occlusion with inspissated mucus ( on bronchoscopy today). He will need
   transition to CPAP/ PSV today with attempts at extubation in am [**2193-8-18**]
   if no setback over next 12-16 hrs. We will re-institute IV steroids in
   the interim until extubation and maximize MDI
s and nebs> He may very
   need mucomyst therapy (nebs) in post extubation setting to help with
   secretion clearance. His mental status is thankfully intact and he does
   not have intra-cardiac shunt)
   Patient is critically ill
   Total time: 40 min
   _________
   [**First Name8 (NamePattern2) **] [**Name8 (MD) 1973**],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 1015**]
   [**Location (un) 7530**], KS-B23
   [**Location (un) 223**], [**Numeric Identifier 4370**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 1973**], MD
   on:[**2193-8-17**] 16:15 ------

2193-08-18 12:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - d/c'ed vanco
   - bronched and specimen sent for analysis
   - PS [**11-16**] with FIO2 50%
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2193-8-17**] 10:35 AM
   Ceftriaxone - [**2193-8-18**] 10:16 AM
   Azithromycin - [**2193-8-18**] 11:00 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2193-8-17**] 01:55 PM
   Heparin Sodium (Prophylaxis) - [**2193-8-18**] 08:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-8-18**] 12:27 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.3
C (99.2
   HR: 72 (59 - 89) bpm
   BP: 118/59(78) {99/52(67) - 122/70(86)} mmHg
   RR: 12 (12 - 27) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 114.7 kg (admission): 121 kg
   Height: 74 Inch
             Total In:
                                                                  3,019 mL
                                                                  1,646 mL
   PO:
             200 mL
   TF:
                                                                  1,176 mL
                                                                    598 mL
   IVF:
                                                                  1,673 mL
                                                                    708 mL
   Blood products:
   Total out:
                                                                  1,787 mL
                                                                    855 mL
   Urine:
                                                                  1,787 mL
                                                                    855 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,232 mL
                                                                    791 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 439 (439 - 855) mL
   PS : 5 cmH2O
   RR (Spontaneous): 14
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 20 cmH2O
   SpO2: 94%
   ABG: 7.38/67/78.[**Numeric Identifier 244**]/42/10
   Ve: 8.5 L/min
   PaO2 / FiO2: 158
   Physical Examination
   Gen
 sedated, on ventilator, answers questions by nodding
   CV
 faint heart sounds; but, no murmurs, rubs, or gallops appreciated
   Resp
 clear to auscultation anteriorly
   Abdomen
 soft, non-tender, non-distended; bowel sounds present
   Extremities: no edema noted
   Labs / Radiology
   281 K/uL
   15.5 g/dL
   187 mg/dL
   0.7 mg/dL
   42 mEq/L
   4.3 mEq/L
   28 mg/dL
   97 mEq/L
   145 mEq/L
   49.7 %
   9.8 K/uL
        [image002.jpg]
                             [**2193-8-16**]  04:49 PM
                             [**2193-8-16**]  06:57 PM
                             [**2193-8-16**]  09:11 PM
                             [**2193-8-17**]  02:39 AM
                             [**2193-8-17**]  02:51 AM
                             [**2193-8-17**]  10:00 AM
                             [**2193-8-17**]  01:02 PM
                             [**2193-8-18**]  02:46 AM
                             [**2193-8-18**]  06:07 AM
                             [**2193-8-18**]  10:03 AM
   WBC
   12.1
   9.8
   Hct
   49.3
   49.7
   Plt
   283
   281
   Cr
   0.8
   0.8
   0.7
   TCO2
   49
   41
   47
   38
   39
   41
   Glucose
   [**Telephone/Fax (3) 9582**]87
   Other labs: PT / PTT / INR:13.1/23.3/1.1, Lactic Acid:0.9 mmol/L,
   Ca++:9.6 mg/dL, Mg++:2.5 mg/dL, PO4:4.2 mg/dL
   Micro
 [**8-17**] BAL: 3+ PMN, remainder pending
   Assessment and Plan
 ACIDOSIS, RESPIRATORY
 PNEUMONIA, OTHER
   49 year old male with COPD (FEV1 1.2), CAD, HTN, DMII, who presents
   with dyspnea transferred to the unit for hypercarbic and hypoxic
   respiratory failure s/p intubation.
   # Respiratory Failure
 combined hypercarbic and hypoxic respiratory
   failure
   - on bronch, tracheobroncheomalacia and mucus in LLL
   - oxygenating and ventilating well on PS [**11-16**]
   - continue cetriaxone and azithromycin
   - continue IV solumedrol for one more day, then switch to PO prednisone
   60 mg PO daily x 4 days
   - continue albuterol and atrovent
   - will wean and extubate today
   - will continue to follow CXR
s serially
   - leukocytosis is likely secondary to pt being on steroids, as no other
   signs of infxn
   - bubble study was negative for shunt
   - have added mucomyst standing
   # Diabetes
   - insulin SS
   # Hypertension: Continue home regimen of metoprolol
 lisinopril held
   at this time
   # CAD
   - continue aspirin, statin, and beta blocker
   # FEN: on TF
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2193-8-15**] 01:39 AM
   20 Gauge - [**2193-8-18**] 11:53 AM
   Prophylaxis:
   DVT: OOB once extubated
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: full
   Disposition: ICU overnight
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   Critical Care:
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   He is awake and comfortable on PSV/ CPAP with a good cough despite low
   dose IV propafol. His CXR shows a persistent infiltrate at Left lung
   base, likely atelectasis. He has a VC of greater than 1.3 L
   We will extubate today and plan on adding mucomyst to his regimen to
   help with secretion clearance. We will continue IV steroids today and
   switch to prednisone in am [**2193-8-19**]. He may need NIPPV with sleep in
   addition to supplemental O2.
   Total time: 30 min
    ________
   [**First Name8 (NamePattern2) **] [**Name8 (MD) 1973**],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 1015**]
   [**Location (un) 7530**], KS-B23
   [**Location (un) 223**], [**Numeric Identifier 4370**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 1973**], MD
   on:[**2193-8-18**] 14:36 ------

2193-08-19 07:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2193-8-18**] 10:36 AM
   extubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2193-8-17**] 10:35 AM
   Ceftriaxone - [**2193-8-18**] 10:16 AM
   Azithromycin - [**2193-8-18**] 11:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2193-8-18**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2193-8-19**] 12:00 AM
   Other medications:
   1. IV access: Peripheral line, Date inserted: [**2193-8-15**] Order date:
   [**8-15**] @ 0224
   11. Heparin 5000 UNIT SC TID  Order date: [**8-15**] @ 1443
   2. Acetylcysteine 20% 1-10 mL NEB TID
   Please dilute to 10%  Order date: [**8-18**] @ 1035
   12. Insulin SC  (per Insulin Flowsheet)
         Sliding Scale & Fixed Dose Order date: [**8-17**] @ 1050
   3. Albuterol Inhaler 6 PUFF IH Q2H:PRN wheezing  Order date: [**8-15**] @
   0226
   13. Ipratropium Bromide MDI 6 PUFF IH Q4H  Order date: [**8-15**] @ 1713
   4. Albuterol 0.083% Neb Soln 1 NEB IH TID
   To be given with Mucomyst nebs  Order date: [**8-18**] @ 2202
   14. Metoprolol Tartrate 50 mg PO BID
   hold for SBP<100 or HR<55  Order date: [**8-15**] @ 0224
   5. Aspirin 325 mg PO DAILY  Order date: [**8-15**] @ 0224
   15. MethylPREDNISolone Sodium Succ 40 mg IV Q8H  Order date: [**8-17**] @
   1532
   6. Azithromycin 250 mg IV Q24H
   day 1 [**8-15**]  Order date: [**8-16**] @ 1224
   16. Potassium Chloride 60 mEq PO ONCE Duration: 1 Doses
   Hold for K >4.0  Order date: [**8-19**] @ 0617
   7. CeftriaXONE 1 gm IV Q24H
   day 1 [**8-15**]  Order date: [**8-15**] @ 0928
   17. Pravastatin 40 mg PO DAILY  Order date: [**8-15**] @ 0224
   8. Chlorhexidine Gluconate 0.12% Oral Rinse 15 ml ORAL [**Hospital1 **]
   Use only if patient is on mechanical ventilation.  Order date: [**8-15**] @
   0224
   18. Propofol 20-100 mcg/kg/min IV DRIP TITRATE TO rikers [**4-10**]  Order
   date: [**8-15**] @ 0229
   9. Clopidogrel 75 mg PO DAILY  Order date: [**8-15**] @ 0224
   19. Sodium Chloride 0.9% Flush 3 mL IV Q8H:PRN line flush
   Peripheral line: Flush with 3 mL Normal Saline every 8 hours and PRN.
   Order date: [**8-15**] @ 0224
   10. Famotidine 20 mg PO Q12H  Order date: [**8-16**] @
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-8-19**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.1
C (96.9
   HR: 52 (52 - 85) bpm
   BP: 107/51(69) {100/51(69) - 140/76(96)} mmHg
   RR: 22 (12 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 114.3 kg (admission): 121 kg
   Height: 74 Inch
                  Total In:
                                                                  2,762 mL
                                                                    240 mL
   PO:
                                                                  1,240 mL
                                                                    240 mL
   TF:
                                                                    598 mL
   IVF:
                                                                    784 mL
   Blood products:
   Total out:
                                                                  2,505 mL
                                                                    895 mL
   Urine:
                                                                  2,505 mL
                                                                    895 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    257 mL
                                                                   -655 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 439 (439 - 439) mL
   PS : 5 cmH2O
   RR (Spontaneous): 14
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 20 cmH2O
   SpO2: 96%
   ABG: 7.38/67/78.[**Numeric Identifier 244**]/28/10
   Ve: 8.5 L/min
   PaO2 / FiO2: 158
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   251 K/uL
   16.0 g/dL
   169 mg/dL
   0.3 mg/dL
   28 mEq/L
   3.3 mEq/L
   17 mg/dL
   109 mEq/L
   143 mEq/L
   50.9 %
   11.3 K/uL
        [image002.jpg]
                             [**2193-8-16**]  06:57 PM
                             [**2193-8-16**]  09:11 PM
                             [**2193-8-17**]  02:39 AM
                             [**2193-8-17**]  02:51 AM
                             [**2193-8-17**]  10:00 AM
                             [**2193-8-17**]  01:02 PM
                             [**2193-8-18**]  02:46 AM
                             [**2193-8-18**]  06:07 AM
                             [**2193-8-18**]  10:03 AM
                             [**2193-8-19**]  04:45 AM
   WBC
   12.1
   9.8
   11.3
   Hct
   49.3
   49.7
   50.9
   Plt
   [**Telephone/Fax (3) 9599**]
   Cr
   0.8
   0.7
   0.3
   TCO2
   49
   41
   47
   38
   39
   41
   Glucose
   [**Telephone/Fax (3) 9600**]69
   Other labs: PT / PTT / INR:13.1/23.3/1.1, Lactic Acid:0.9 mmol/L,
   Ca++:9.6 mg/dL, Mg++:2.5 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 ACIDOSIS, RESPIRATORY
 PNEUMONIA, OTHER
   49 year old male with COPD (FEV1 1.2), CAD, HTN, DMII, who presents
   with dyspnea transferred to the unit for hypercarbic and hypoxic
   respiratory failure s/p intubation.
   # Respiratory Failure
 combined hypercarbic and hypoxic respiratory
   failure
   - on bronch, tracheobroncheomalacia and mucus in LLL
   - oxygenating and ventilating well on PS [**11-16**]
   - continue cetriaxone and azithromycin
   - continue IV solumedrol for one more day, then switch to PO prednisone
   60 mg PO daily x 4 days
   - continue albuterol and atrovent
   - will wean and extubate today
   - will continue to follow CXR
s serially
   - leukocytosis is likely secondary to pt being on steroids, as no other
   signs of infxn
   - bubble study was negative for shunt
   - have added mucomyst standing
   # Diabetes
   - insulin SS
   # Hypertension: Continue home regimen of metoprolol
 lisinopril held
   at this time
   # CAD
   - continue aspirin, statin, and beta blocker
   # FEN: on TF
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2193-8-15**] 01:39 AM
   20 Gauge - [**2193-8-18**] 11:53 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2193-08-20 07:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2193-8-19**] 02:12 PM
   [**2193-8-19**]
   -took out a line
   - lasix
   - po prednisone
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2193-8-17**] 10:35 AM
   Ceftriaxone - [**2193-8-19**] 11:00 AM
   Azithromycin - [**2193-8-19**] 12:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2193-8-20**] 12:12 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-8-20**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.1
C (97
   HR: 63 (57 - 88) bpm
   BP: 93/59(67) {93/17(42) - 131/95(103)} mmHg
   RR: 19 (15 - 25) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 114.7 kg (admission): 121 kg
   Height: 74 Inch
                  Total In:
                                                                  1,420 mL
                                                                    240 mL
   PO:
                                                                  1,120 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    300 mL
   Blood products:
   Total out:
                                                                  3,070 mL
                                                                  1,125 mL
   Urine:
                                                                  3,070 mL
                                                                  1,125 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,650 mL
                                                                   -885 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///34/
   Physical Examination
   Gen
 sedated, on ventilator, answers questions by nodding
   CV
 faint heart sounds; but, no murmurs, rubs, or gallops appreciated
   Resp
 clear to auscultation anteriorly
   Abdomen
 soft, non-tender, non-distended; bowel sounds present
   Extremities: no edema noted
   Labs / Radiology
   273 K/uL
   17.5 g/dL
   209 mg/dL
   0.6 mg/dL
   34 mEq/L
   4.6 mEq/L
   23 mg/dL
   97 mEq/L
   138 mEq/L
   55.3 %
   16.6 K/uL
        [image002.jpg]
                             [**2193-8-16**]  09:11 PM
                             [**2193-8-17**]  02:39 AM
                             [**2193-8-17**]  02:51 AM
                             [**2193-8-17**]  10:00 AM
                             [**2193-8-17**]  01:02 PM
                             [**2193-8-18**]  02:46 AM
                             [**2193-8-18**]  06:07 AM
                             [**2193-8-18**]  10:03 AM
                             [**2193-8-19**]  04:45 AM
                             [**2193-8-20**]  02:20 AM
   WBC
   12.1
   9.8
   11.3
   16.6
   Hct
   49.3
   49.7
   50.9
   55.3
   Plt
   [**Telephone/Fax (3) 9616**]73
   Cr
   0.8
   0.7
   0.3
   0.6
   TCO2
   41
   47
   38
   39
   41
   Glucose
   [**Telephone/Fax (3) 9600**]69
   209
   Other labs: PT / PTT / INR:12.5/24.1/1.1, Lactic Acid:0.9 mmol/L,
   Ca++:9.5 mg/dL, Mg++:2.3 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 ACIDOSIS, RESPIRATORY
 PNEUMONIA, OTHER
   49 year old male with COPD (FEV1 1.2), CAD, HTN, DMII, who presents
   with dyspnea transferred to the unit for hypercarbic and hypoxic
   respiratory failure s/p intubation.
   # Respiratory Failure
 combined hypercarbic and hypoxic respiratory
   failure
   - on bronch, tracheobroncheomalacia and mucus in LLL
   - oxygenating and ventilating well on PS [**11-16**]
   - continue cetriaxone and azithromycin
   - On prednisone taper
   - continue albuterol and atrovent
   - leukocytosis is likely secondary to pt being on steroids,
   - bubble study was negative for shunt
   - have added mucomyst standing
   # Diabetes
   - insulin SS
   # Hypertension: Continue home regimen of metoprolol
 lisinopril held
   at this time
   # CAD
   - continue aspirin, statin, and beta blocker
   # FEN: on TF
   ICU Care
   Nutrition: Diabetic Diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2193-8-18**] 11:53 AM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer:  Famotidine
   VAP:  n/a
   Comments:
   Communication: With Patient Comments:
   Code status: Full Code
   Disposition: